US07947738B2
(14-f) 3-Cyclopentylbicyclo[3.2.0]hept-3-en-6-one
Potassium acetate (4.16 g, 42.4 mmol) was added to an acetic anhydride (20 mL) solution of 3-hydroxy-4-cyclopentylhept-6-enoic acid (4.00 g, 17.7 mmol at the maximum), and the mixture was stirred at room temperature for 1 hour and then stirred at 120° C. for 3.5 hours. The mixture was treated with ice water, followed by extraction with diethyl ether. The organic layer was washed with a saturated aqueous solution of sodium bicarbonate. The organic layer was dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography to obtain the compound of interest as a yellow oil substance (2.30 g, 74%).

reactant | Potassium acetate | 42.4 mmol, 4.16 g | C(C)(=O)[O-].[K+]
reactant | 3-hydroxy-4-cyclopentylhept-6-enoic acid | OC(CC(=O)O)C(CC=C)C1CCCC1 | C12H20O3
solvent | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Cyclopentylbicyclo[3.2.0]hept-3-en-6-one | C1(CCCC1)C=1CC2CC(C2C1)=O | C12H16O
